US07763639B2
1-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-4-(2-METHOXYETHYL)PIPERAZINE
Preparation according to Example 1: 1-[2-fluoro-3-(trifluoro-methyl)phenyl]piperazine (0.5 g, 2.0 mmol), acetonitrile (25 ml), potassium carbonate (0.42 g, 3.0 mmol) and 1-bromo-2-methoxyethane (0.189 ml, 2.0 mmol). Yield: 0.26 g (42%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 170-171° C. MS m/z (relative intensity, 70 eV) 306 (M+, 9), 262 (13), 261 (bp), 218 (23), 190 (23).

reactant | 1-[2-fluoro-3-(trifluoro-methyl)phenyl]piperazine | 2.0 mmol, 0.5 g | FC1=C(C=CC=C1C(F)(F)F)N1CCNCC1 | C11H12F4N2
reactant | potassium carbonate | 3.0 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 2.0 mmol, 0.189 ml | BrCCOC | C3H7BrO
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-4-(2-METHOXYETHYL)PIPERAZINE | FC1=C(C=CC=C1C(F)(F)F)N1CCN(CC1)CCOC | C14H18F4N2O
